US08536343B2
Into a suspension of 1.07 g of 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-hydroxybenzamidine in 10 mL of acetic acid, 0.64 mL of acetic anhydride was added at room temperature, and the suspension was stirred at room temperature for 40 min. The mixture, after adding 0.10 g of 5% palladium on carbon, was stirred under hydrogen atmosphere for 2 hours 15 min. The mixture was filtered to remove insoluble matters, and after adding 4 mL of 6.0 mol/L hydrochloric acid, the mixture was filtered again to remove insoluble matters, and the solvent was removed by evaporation under reduced pressure. To the obtained residue, a 5.0 mol/L sodium hydroxide aqueous solution was added to adjust the pH to 12.5, then the solid matter was collected by filtration to obtain 0.61 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine as a white solid.

reactant | 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-hydroxybenzamidine | 1.07 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=NO)N)C=C2)C=C1)=NO | C25H35N5O4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 0.64 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
product | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine | 0.61 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | C25H35N5O2
